US08227492B2
Step 9: Preparation of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-(2-hydroxy ethyl)-sulfoximide
To a stirring solution of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-(2-methoxyethyl)-N-benzyloxycarbonyl sulfoximide (0.3 g, 0.00046 mol) in DCM (3 mL) was added 1M solution of BBr3 in DCM(0.33 g, 0.00138 mol) at −70° C. under nitrogen atmosphere. Reaction mixture was stirred for 3 hr at 25-30° C. Subsequent work up and column purification (2% methanol in chloroform and 100-200 mesh silica gel) gave 65 mg of desired product in 28% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-(2-methoxyethyl)-N-benzyloxycarbonyl sulfoximide | 0.00046 mol, 0.3 g | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NC(=O)OCC1=CC=CC=C1)CCOC | C30H26Cl2N4O6S
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.00138 mol, 0.33 g | C(Cl)Cl | CH2Cl2
product | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-(2-hydroxy ethyl)-sulfoximide | 65 mg, 28% yield | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=N)CCO | C21H18Cl2N4O4S
